US06166040
1,3-Dihydroindol-2(3H)-one (3.3 g,25 mmol) and tetramethylethylenediamine (6.4 g, 55 mmol) was dissolved in freshly distilled tetrahydrofuran under nitrogen and cooled to -75° C. in an acetone/dry ice bath. n-Butyllithium (2.5M, 22 ml, 55 mmol) was added and the mixture was stirred at -75° C. for 30 minutes. Iodomethane (3.57 g, 25 mmol) was added and the mixture was allowed to warm to -20° C., the mixture was recooled to -75° C. then dimethyl disulfide (2.35 g, 25 mmol) was added and the mixture was allowed to warm to room temperature. Water (5 ml) was added and the mixture was concentrated under reduced pressure to a yellow oil. Column chromatography on silica gel (eluent ethyl acetate/hexane) gave 3-methyl-3-methylthio-1,3-dihydro-2H-indol-2-one as a yellow oil which solidified on standing.

reactant | tetramethylethylenediamine | 55 mmol, 6.4 g | CN(CCN(C)C)C | C6H16N2
reactant | n-Butyllithium | 55 mmol, 2.5M, 22 ml | C(CCC)[Li]
reactant | Iodomethane | 25 mmol, 3.57 g | IC | CH3I
reactant | dimethyl disulfide | 25 mmol, 2.35 g | CSSC | C2H6S2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Water | 5 ml | O | H2O
product | 3-methyl-3-methylthio-1,3-dihydro-2H-indol-2-one | CC1(C(NC2=CC=CC=C12)=O)SC | C10H11NOS
